US04125729
[p-(p-Nitrophenoxy)phenyl]acetic Acid
A mixture of 38 g of p-hydroxyphenylacetic acid, 39.4 g of 4-nitrochlorobenzene and 69 g of anhydrous potassium carbonate in 275 ml of N,N-dimethylacetamide is heated to 155°-160° C over 2 hours, and maintained at that temperature, under Argon atmosphere for 4 hours with vigorous stirring. On cooling, an orange solid separated. A 1000 g solution of 5% NaHCO3 is added, resulting in a red brown solution. The solution is extracted with 4 × 100 ml of ether. The aqueous layer is acidified by the dropwise addition of 150 ml of concentrated HCl. A light yellow solid precipitates and is filtered and washed with 1500 ml of H2O to give the product, mp 132°-136° C. A sample is recrystallized from 19:1 methanol-water, to give the product, mp 135°-137° C.

reactant | p-hydroxyphenylacetic acid | 38 g | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | 4-nitrochlorobenzene | 39.4 g | [N+](=O)([O-])C1=CC=C(C=C1)Cl | C6H4ClNO2
reactant | potassium carbonate | 69 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylacetamide | 275 ml | CN(C(C)=O)C | C4H9NO
product | [p-(p-Nitrophenoxy)phenyl]acetic Acid | [N+](=O)([O-])C1=CC=C(OC2=CC=C(C=C2)CC(=O)O)C=C1 | C14H11NO5
